US08877782B2
6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 84f, 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (97.6 mg, 0.3 mmol) was converted, instead of [6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (93 mg, 79%) which was obtained as a white solid. MS: m/e=395.0 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.3 mmol, 97.6 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=CC=C1)=O | C17H15N3O4
reactant | 6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=CC=C1)F)=O | C18H15FN2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 93 mg, 79% | CC1=C(C(=NO1)C1=NC=CC=C1)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C21H22N4O4
